US07759043B2
1.b 1-[9-Ethyl-6-(4-morpholin-4-yl-benzoyl)-9H-carbazol-3-yl]-ethanone
To 1-[9-Ethyl-6-(4-fluoro-benzoyl)-9H-carbazol-3-yl]-ethanone (1.30 g; 25.6 mmol) in N,N-Dimethylacetamide (DMA) (10 ml) is added morpholine (1.07 g; 12.3 mmol) at 100° C. This reaction mixture is stirred at 140° C. for 15 h. After the reaction is completed, the reaction mixture is poured into H2O, then, a beige solid was obtained by filtration. The solid is dissolved in CH2Cl2, followed by dying over anhydrous MgSO4. Condensation under reduced pressure affords a beige solid as crude product. (1.13 g) The pure product was obtained by silica gel column chromatography with ethylacetate/hexane (1/3-1/1) as eluent. (1.03 g, 67%). The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ[ppm]: 1.50 (t, 3H), 2.72 (s, 3H), 3.36 (t, 4H), 3.89 (t, 4H), 4.44 (q, 2H), 6.96 (d, 2H), 7.48 (dd, 2H), 7.86 (dd, 2H), 8.05 (dd, 1H), 8.16 (dd, 1H), 8.58 (d, 1H), 8.73 (d, 1H).

reactant | 1-[9-Ethyl-6-(4-fluoro-benzoyl)-9H-carbazol-3-yl]-ethanone | 25.6 mmol, 1.30 g | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(C)=O)C(C1=CC=C(C=C1)F)=O | C23H18FNO2
reactant | morpholine | 12.3 mmol, 1.07 g | N1CCOCC1 | C4H9NO
reactant | H2O | O | H2O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | N,N-Dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
product | 1-[9-Ethyl-6-(4-morpholin-4-yl-benzoyl)-9H-carbazol-3-yl]-ethanone | 1.13 g | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(C)=O)C(C1=CC=C(C=C1)N1CCOCC1)=O | C27H26N2O3
